US09029399B2
Preparation of Intermediate 5-Bromo-2-fluoro-3-methyl-benzo[b]thiophene (I-24c)
Using analogous reaction condition and workup as described in Example 20 above from the preparation of I-20a, 5-bromo-3-methyl-benzo[b]thiophene (I-24b: 500 mg, 2.192 mmol) in dry THF was reacted with N-fluoro benzene sulfonimide (1.2 g, 3.94 mmol), diisopropyl amine (266.2 mg, 2.6315 mmol), n-butyl lithium (1.3 mL, 2.6315 mmol) to afford crude product. Purification by column chromatography on silica gel (hexane) afforded 120 mg of the product (22% yield).

reactant | 5-bromo-3-methyl-benzo[b]thiophene | 2.192 mmol, 500 mg | BrC1=CC2=C(SC=C2C)C=C1 | C9H7BrS
reactant | N-fluoro benzene sulfonimide | 3.94 mmol, 1.2 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | diisopropyl amine | 2.6315 mmol, 266.2 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.6315 mmol, 1.3 mL | C(CCC)[Li]
solvent | THF | C1CCOC1 | C4H8O
product | 5-Bromo-2-fluoro-3-methyl-benzo[b]thiophene | 120 mg, 22% yield | BrC1=CC2=C(SC(=C2C)F)C=C1 | C9H6BrFS
